US07141561B2
1,3-Diallyl-3-(4-benzyloxyphenyl)-1-(4-phenoxyphenyl)urea
Potassium hydride (30% in oil, 40 mg) was added to a solution of 1-allyl-1-(4-benzyloxyphenyl)-3-(4-phenoxyphenyl)urea (133 mg) in THF (3 mL) at −78° C. After 30 minutes, allyl bromide (30 μL) was added. After 14 hours at room temperature, the solution was diluted with dichloromethane and washed with saturated sodium bicarbonate solution. The organic phase was dried and concentrated. The product with the molecular weight of 490.61 (C32H30N2O3); MS (ESI): 491 ([M+H]+), was obtained in this way.

reactant | Potassium hydride | 40 mg | [H-].[K+]
reactant | 1-allyl-1-(4-benzyloxyphenyl)-3-(4-phenoxyphenyl)urea | 133 mg | C(C=C)N(C(=O)NC1=CC=C(C=C1)OC1=CC=CC=C1)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C29H26N2O3
reactant | allyl bromide | 30 μL | C(C=C)Br | C3H5Br
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1,3-Diallyl-3-(4-benzyloxyphenyl)-1-(4-phenoxyphenyl)urea | C(C=C)N(C(=O)N(C1=CC=C(C=C1)OCC1=CC=CC=C1)CC=C)C1=CC=C(C=C1)OC1=CC=CC=C1 | C32H30N2O3
